US07622593B2
Preparation of methyl-(S)-1-[(S)-1-(4-ethylthiazol-2-yl)-2-(4-nitrophenyl)ethyl-amino]-1-oxo-3-phenylpropan-2-ylcarbamate (10):
tert-butyl (S)-1-[(S)-1-(4-ethylthiazol-2-yl)-2-(4-nitrophenyl)ethylamino]-1-oxo-3-phenylpropan-2-ylcarbamate, 8, (0.460 mg, 0.881 mmol) is dissolved in a solution of 4M hydrogen chloride in 1,4-dioxane (4 mL). The reaction mixture is stirred 1 hour, and the solvent is removed under reduced pressure. The resulting crude amine is dissolved in CHCl3 (8 mL) and pyridine (1 mL) is added. The temperature is cooled to 0° C. and methyl chloroformate (0.083 g, 0.881 mmol) is added dropwise. The reaction mixture is allowed to warm to room temperature and stirred for 2 days. Water is added, the solution stirred for 15 minutes and then extracted several times with CHCl3. The combined organic layers are washed with 1N HCl, 5% NaHCO3, and brine, dried over Na2SO4, and filtered. The solvent is removed in vacuo to afford 0.297 g of the desired product.

reactant | tert-butyl (S)-1-[(S)-1-(4-ethylthiazol-2-yl)-2-(4-nitrophenyl)ethylamino]-1-oxo-3-phenylpropan-2-ylcarbamate | C(C)C=1N=C(SC1)[C@H](CC1=CC=C(C=C1)[N+](=O)[O-])NC([C@H](CC1=CC=CC=C1)NC(OC(C)(C)C)=O)=O | C27H32N4O5S
reactant | methyl chloroformate | 0.881 mmol, 0.083 g | ClC(=O)OC | C2H3ClO2
reactant | Water | O | H2O
solvent | hydrogen chloride | 4M | Cl | ClH
solvent | 1,4-dioxane | 4 mL | O1CCOCC1 | C4H8O2
product | methyl-(S)-1-[(S)-1-(4-ethylthiazol-2-yl)-2-(4-nitrophenyl)ethyl-amino]-1-oxo-3-phenylpropan-2-ylcarbamate | 0.297 g | COC(N[C@H](C(=O)N[C@@H](CC1=CC=C(C=C1)[N+](=O)[O-])C=1SC=C(N1)CC)CC1=CC=CC=C1)=O | C24H26N4O5S
